"SLiCAP library"

* Device models
***************

.model AD8610 OV 
+ cd = 15p  ; differential-mode input capacitance
+ cc = 8p   ; common-mode input capacitance
+ av = {300k*(1-s/2/pi/120M)/(1+s*300k/2/pi/20M)/(1+s/2/pi/120M)} ; voltage gain
+ zo = 20   ; output impedance

.model AD8610_A0 OV 
+ cd = 15p  ; differential-mode input capacitance 
+ cc = 8p   ; common-mode input capacitance
+ av = {A_0*(1-s/2/pi/120M)/(1+s*300k/2/pi/20M)/(1+s/2/pi/120M)} ; voltage gain 
+ zo = 20   ; output impedance

.model AD8065 OV 
+ cd = 4.5p ; differential-mode input capacitance 
+ cc = 2.1p ; common-mode input capacitance 
+ av = {300k*(1-s/2/pi/250M)/(1+s*300k/2/pi/60M)/(1+s/2/pi/250M)} ; voltage gain 
+ zo = 3k   ; output impedance

.model AD8065_A0 OV 
+ cd = 4.5p ; differential-mode input capacitance 
+ cc = 2.1p ; common-mode input capacitance 
+ av = {A_0*(1-s/2/pi/250M)/(1+s*300k/2/pi/60M)/(1+s/2/pi/250M)} ; voltage gain 
+ zo = 3k   ; output impedance

.model OPA211 OV 
+ cd = 8p  ; differential-mode input capacitance 
+ gd = 50u ; differential-mode input conductance 
+ cc = 2p  ; common-mode input capacitance 
+ av = {0.67M*(1+s/2/pi/40M)/(1+s/2/pi/120)/(1+s/2/pi/20M)} ; voltage gain 
+ zo = {3.6k/(1+s*3.6k*8u) + 0.7 + s*900n*60/(60+s*900n)}   ; output impedance

.model OPA211_A0 OV 
+ cd = 8p  ; differential-mode input capacitance 
+ gd = 50u ; differential-mode input conductance 
+ cc = 2p  ; common-mode input capacitance 
+ av = {A_0*(1+s/2/pi/40M)/(1+s/2/pi/120)/(1+s/2/pi/20M)}   ; voltage gain 
+ zo = {3.6k/(1+s*3.6k*8u) + 0.7 + s*900n*60/(60+s*900n)}   ; output impedance

.model OPA300_A0 OV
+ av={A_0/(1+s*200k/2/pi/180M)/(1+s/2/pi/300M)*(1-s/2/pi/400M)/(1+s/2/pi/400M)}
+ cd=3p
+ cc=6p
+ zo={20k/(1+s*200k/2/pi/180M)*(1+s/2/pi/80k)*(1+s/2/pi/5M)}

.model OPA300 OV
+ av={200k/(1+s*200k/2/pi/180M)/(1+s/2/pi/300M)*(1-s/2/pi/400M)/(1+s/2/pi/400M)}
+ cd=3p
+ cc=6p
+ zo={20k/(1+s*200k/2/pi/180M)*(1+s/2/pi/80k)*(1+s/2/pi/5M)}

.model OPA627 OV
+ av={1M/(1+s*1/2/pi/16)}
+ cd=8p
+ cc=8p
+ zo=55

.model OPA627_A0 OV
+ av={A0/(1+s*1/2/pi/16)}
+ cd=8p
+ cc=8p
+ zo=55

.model NDD03N80Z M cgs=400p cdg=8p cdb=40p gm={2*sqrt(0.92*I_D)} go={2*sqrt(0.92*I_D)*3m}

.model STD7N80K5 M cgs=360p cdg=1p cdb=29p gm={2*sqrt(1.0*I_D)} go={2*sqrt(0.92*I_D)*2.5m}

* Sub circuits
**************

.subckt ABCD 1 2 3 4 A={A} B={B} C={C} D={D}
N1 1 5 3 7
E1 7 8 1 2 {A}
H1 8 4 6 5 {B}
G1 3 4 1 2 {C}
F1 3 4 2 6 {D}
.ends 

.subckt N_noise 1 2 4 COMMON sv={sv} si={si}
N1 4 COMMON 3 2
V1 1 3 V noise={sv}
I1 1 2 I noise={si}
.ends 

.subckt N_dcvar 1 2 4 6 COMMON sib={sib} sio={sio} svo={svo} iib={iib}
Ib 1 5 I dc={iib} dcvar={sib^2}
F1 2 COMMON 5 COMMON 1
Io 1 2 I dcvar={sio^2}
Vo 1 3 V dcvar={svo^2}
N1 4 6 3 2
.ends 

.subckt O_noise 1 2 4 COMMON sv={sv} si={si}
N1 4 COMMON 3 2
V1 1 3 V noise={sv}
I1 1 2 I noise={si}
.ends 

.subckt O_dcvar 1 2 4 COMMON
+ sib={sib} 
+ sio={sio} 
+ svo={svo} 
+ iib={iib}
Ib 1 5 I dc={iib} dcvar={sib^2}
F1 2 COMMON 5 COMMON 1
Io 1 2 I dcvar={sio^2}
Vo 1 3 V dcvar={svo^2}
N1 4 COMMON 3 2
.ends 

.subckt CMOS18N drain gate source bulk W={W} L={L} ID={ID}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region
* 
M1 drain gate source bulk CMOS18N

.model CMOS18N M 
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {ID/VAL_N18/L}
+ g_b     = {(N_s_N18-1)*g_m}
+ c_gs    = {2/3*W*L*C_OX_N18 + CGSO_N18*W} 
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {CGBO_N18*2*L+(N_s_N18-1)/N_s_N18*C_OX_N18*W*L/3}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ c_sb    = {CJB0_N18*W*LDS_N18}
+ IC_i    = {ID*L/W/I_0_N18} ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ V_GS    = {2*N_s_N18*U_T*ln(exp(sqrt(IC))-1)+Vth_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
.ends

.subckt CMOS18N_V drain gate source bulk W={W} L={L} VD={VD} VG={VG} VS={VS}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating voltages with respect to the bulk
* Assumes forward operation: VDS > 0
* 
M1 drain gate source bulk CMOS18N_V

.model CMOS18N_V M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
* See EKV2.6 model manual
+ V_A     = {VAL_N18*L}
+ C_gso   = {CGSO_N18*W}
+ C_gdo   = {CGSO_N18*W}
+ C_gbo   = {CGBO_N18*2*L}
+ C_sb0   = {CJB0_N18*W*LDS_N18}
+ C_db0   = {CJB0_N18*W*LDS_N18}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ V_effF  = {(VG-Vth_N18-N_s_N18*VS)}
+ V_effR  = {(VG-Vth_N18-N_s_N18*VD)}
+ IC_F    = {(ln(1+exp(V_effF/2/N_s_N18/U_T)))^2}
+ IC_R    = {(ln(1+exp(V_effR/2/N_s_N18/U_T)))^2}
+ x_f     = {sqrt(1/4+IC_F)}
+ x_r     = {sqrt(1/4+IC_R)}
+ I_DSF   = {W/L*I_0_N18*(IC_F)*(1+(VD-VS)/V_A)/(1+(Theta_N18+1/L/E_CRIT_N18)*2*U_T*sqrt(IC_F))}
+ I_DSR   = {W/L*I_0_N18*(IC_R)*(1+(VS-VD)/V_A)/(1+(Theta_N18+1/L/E_CRIT_N18)*2*U_T*sqrt(IC_R))}
+ I_DS    = {I_DSF-I_DSR}
+ g_mF    = {I_DSF/(N_s_N18*U_T*sqrt(IC_F*(1+IC_F/IC_CRIT)+0.5*sqrt(IC_F*(1+IC_F/IC_CRIT))+1))}
+ g_mR    = {I_DSR/(N_s_N18*U_T*sqrt(IC_R*(1+IC_R/IC_CRIT)+0.5*sqrt(IC_R*(1+IC_R/IC_CRIT))+1))}
+ g_m     = {g_mF-g_mR}
+ g_o     = {I_DSF/(V_A+VD-VS)+g_mR}
+ g_b     = {(N_s_N18-1)*g_m}
+ c_gsi   = {2/3*(1-(x_r^2+x_r+0.5*x_f)/(x_f+x_r)^2)*C_OX_N18*W*L} 
+ c_dgi   = {2/3*(1-(x_f^2+x_f+0.5*x_r)/(x_f+x_r)^2)*C_OX_N18*W*L}
+ c_gs    = {c_gsi+C_gso}
+ c_dg    = {c_dgi+C_gdo}
+ c_gb    = {(N_s_N18-1)/N_s_N18*(C_OX_N18*W*L-c_gsi-c_dgi)+C_gbo}
+ c_db    = {(N_s_N18-1)*c_dgi+C_db0}
+ c_sb    = {(N_s_N18-1)*c_gsi+C_sb0}
+ c_iss   = {c_gs+c_dg+c_gb}
+ f_T     = {g_m/2/pi/c_iss}
.ends

.subckt CMOS18ND drain1 drain2 gate1 gate2 W={W} L={L} ID={ID}
* EKV model of differential pair without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region, fully differential!
* This means: no net current to bulk!
* ID is operating current of single transistor: diff-pair
* tail current is 2*ID
M1 drain1 drain2 gate1 gate2 CMOS18ND

.model CMOS18ND MD
+ cgg     = {c_gs/2+c_gb/2} 
+ gm      = {g_m/2} 
+ go      = {g_o/2} 
+ cdg     = {c_dg}
+ cdd     = {c_db/2}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {ID/VAL_N18/L}
+ c_gs    = {2/3*W*L*C_OX_N18 + CGSO_N18*W} 
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {CGBO_N18*2*L+(N_s_N18-1)/N_s_N18*C_OX_N18*W*L/3}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ IC_i    = {ID*L/W/I_0_N18} ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ V_GS    = {2*N_s_N18*U_T*ln(exp(sqrt(IC))-1)+Vth_N18}
.ends

.subckt CMOS18P drain gate source bulk W={W} L={L} ID={ID}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region
M1 drain gate source bulk CMOS18P

.model CMOS18P M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {-ID/VAL_P18/L} 
+ g_b     = {(N_s_P18-1)*g_m}
+ c_gs    = {2/3*W*L*C_OX_P18 + CGSO_P18*W} 
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {CGBO_P18*2*L+(N_s_P18-1)/N_s_P18*C_OX_P18*W*L/3}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ c_sb    = {CJB0_P18*W*LDS_P18}
+ IC_i    = {-ID*L/W/I_0_P18} ; Correction for initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ V_GS    = {-2*N_s_P18*U_T*ln(exp(sqrt(IC))-1)+Vth_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
.ends

.subckt CMOS18P_V drain gate source bulk W={W} L={L} VD={-VD} VG={-VG} VS={-VS}
* EKV model of transistor without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating voltages with respect to the bulk
* Assumes forward operation: VDS < 0
* All voltages should have negavtive values
M1 drain gate source bulk CMOS18P_V
.model CMOS18P_V M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
* See EKV2.6 model manual
+ V_A     = {VAL_P18*L}
+ C_gso   = {CGSO_P18*W}
+ C_gdo   = {CGSO_P18*W}
+ C_gbo   = {CGBO_P18*2*L}
+ C_sb0   = {CJB0_P18*W*LDS_P18}
+ C_db0   = {CJB0_P18*W*LDS_P18}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ V_effF  = {(VG-Vth_P18-N_s_P18*VS)}
+ V_effR  = {(VG-Vth_P18-N_s_P18*VD)}
+ IC_F    = {(ln(1+exp(-V_effF/2/N_s_P18/U_T)))^2}
+ IC_R    = {(ln(1+exp(-V_effR/2/N_s_P18/U_T)))^2}
+ x_f     = {sqrt(1/4+IC_F)}
+ x_r     = {sqrt(1/4+IC_R)}
+ I_DSF   = {-W/L*I_0_P18*(IC_F)*(1+(VS-VD)/V_A)/(1+(Theta_P18+1/L/E_CRIT_P18)*2*U_T*sqrt(IC_F))}
+ I_DSR   = {-W/L*I_0_P18*(IC_R)*(1+(VD-VS)/V_A)/(1+(Theta_P18+1/L/E_CRIT_P18)*2*U_T*sqrt(IC_R))}
+ I_DS    = {I_DSF-I_DSR}
+ g_mF    = {-I_DSF/(N_s_P18*U_T*sqrt(IC_F*(1+IC_F/IC_CRIT)+0.5*sqrt(IC_F*(1+IC_F/IC_CRIT))+1))}
+ g_mR    = {-I_DSR/(N_s_P18*U_T*sqrt(IC_R*(1+IC_R/IC_CRIT)+0.5*sqrt(IC_R*(1+IC_R/IC_CRIT))+1))}
+ g_m     = {g_mF-g_mR}
+ g_o     = {-I_DSF/(V_A+VS-VD) + g_mR}
+ g_b     = {(N_s_P18-1)*g_m}
+ c_gsi   = {2/3*(1-(x_r^2+x_r+0.5*x_f)/(x_f+x_r)^2)*C_OX_P18*W*L} 
+ c_dgi   = {2/3*(1-(x_f^2+x_f+0.5*x_r)/(x_f+x_r)^2)*C_OX_P18*W*L}
+ c_gs    = {c_gsi+C_gso}
+ c_dg    = {c_dgi+C_gdo}
+ c_gb    = {(N_s_P18-1)/N_s_P18*(C_OX_P18*W*L-c_gsi-c_dgi)+C_gbo}
+ c_db    = {(N_s_P18-1)*c_dgi+C_db0}
+ c_sb    = {(N_s_P18-1)*c_gsi+C_sb0}
+ c_iss   = {c_gs+c_dg+c_gb}
+ f_T     = {g_m/2/pi/c_iss}
.ends

.subckt CMOS18PD drain gate source bulk W={W} L={L} ID={ID}
* EKV model of differential pair without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Operating in forward saturation region, fully differential!
* This means: no net current to bulk!
* ID is operating current of single transistor: diff-pair
* tail current is 2*ID
* ID should be negative
M1 drain gate source bulk CMOS18PD

.model CMOS18PD MD
+ cgg     = {c_gs/2+c_gb/2} 
+ gm      = {g_m/2} 
+ go      = {g_o/2} 
+ cdg     = {c_dg}
+ cdd     = {c_db/2}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ g_o     = {-ID/VAL_P18/L} 
+ c_gs    = {2/3*W*L*C_OX_P18 + CGS0_P18*W} 
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {CGBO_P18*2*L+(N_s_P18-1)/N_s_P18*C_OX_P18*W*L/3}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ IC_i    = {-ID*L/W/I_0_P18} ; Correction for initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ V_GS    = {-2*N_s_P18*U_T*ln(exp(sqrt(IC))-1)+Vth_P18}
.ends

.subckt BJTV4 collector base emitter bulk IC={IC} VCE={VCE}
* small-signal GP model of vertical BJT
Q1 collector base emitter bulk BJTV4
.model BJTV4 QV
* device small-signal parameters
+ gm  = {g_m}  ; transconductance
+ go  = {g_o}  ; output conductance
+ gpi = {g_pi} ; input conductance
+ gbc = 0      ; not modeled in GP model
+ cpi = {c_pi} ; base-emitter capacitance
+ cbc = {c_bc} ; base-collector capacitance
+ cbx = 0      ; no external collector-base capacitance
+ cs  = 0      ; no substrate capacitance
+ rb  = 0      ; zero base resistance
.param
* device equations GP model
+ g_m  = {IC/U_T}
+ g_o  = {IC/(VAF+VCE)}
+ g_pi = {g_m/beta_AC}
+ c_pi = {tau_F*g_m + CJE}
+ c_bc = {CJC*((1+(VCE-V_BE)/VJC)^-MJC)} ; Divide by zero error if VBE-VCE=VJC
+ VBE = {U_T*ln(IC/Is)}
* technology parameters (SI units)
+ Is      = 1e-16 ; saturation current
+ VAF     = 50    ; forward Early voltage
+ beta_AC = 100   ; beta_AC = Beta_DC
+ VJC     = 0.7   ; built-in junction voltage
+ MJC     = 0.33  ; junction grading coefficeint
+ CJC     = 1p    ; zero bias collector-base capacitance
+ CJE     = 5p    ; zero bias emitter-base capacitance
+ tau_F   = 1n    ; forward transit time
.ends

.subckt BJTL4 collector base emitter bulk IC={IC} VCE={VCE}
* small-signal GP model of lateral BJT
Q1 collector base emitter bulk BJTL4
*
.model BJTL4 QL
* device small-signal parameters
+ gm  = {g_m}     ; transconductance
+ go  = {g_o}     ; output conductance
+ gpi = {g_pi}    ; input conductance
+ gbc = 0         ; not modeled in GP model
+ cpi = {c_pi}    ; base-emitter capacitance
+ cbc = {c_bc}    ; base-collector capacitance
+ cbx = 0         ; no external collector-base capacitance
+ cs  = 0         ; no substrate capacitance
+ rb  = 0         ; zero base resistance
.param
* device equations GP model
+ g_m  = {IC/U_T}
+ g_o  = {IC/(VAF+VCE)}
+ g_pi = {g_m/beta_AC}
+ c_pi = {tau_F*g_m + CJE}
+ c_bc = {CJC*((1+(VCE-VBE)/VJC)^-MJC)} ; Divide by zero error if VBE-VCE=VJC
+ VBE  = {U_T*ln(I_C/Is)}
* technology parameters (SI units)
+ Is      = 1e-16 ; saturation current
+ VAF     = 50    ; forward Early voltage
+ beta_AC = 100   ; beta_AC = Beta_DC
+ VJC     = 0.7   ; built-in junction voltage
+ MJC     = 0.33  ; junction grading coefficeint
+ CJC     = 1p    ; zero bias collector-base capacitance
+ CJE     = 5p    ; zero bias emitter-base capacitance
+ tau_F   = 1n    ; forward transit time
.ends

.subckt BJTD collector1 collector2 base1 base2 IC={IC} VCE={VCE}
* small-signal GP model of differential pair BJT
Q1 collector1 collector2 base1 base2 BJTD
*
.model BJTD QD
* device small-signal parameters
+ gm  = {g_m}     ; transconductance
+ go  = {g_o/2}   ; output conductance
+ gbb = {g_pi/2}  ; input conductance
+ gbc = 0         ; not modeled in GP model
+ cbb = {c_pi/2}  ; input capacitance
+ cbc = {cbc}     ; collector-base capacitance
+ rb  = 0         ; zero base resistance
.param
* device equations GP model
+ g_m  = {IC/U_T}
+ g_o  = {IC/(VAF+VCE)}
+ g_pi = {g_m/beta_AC}
+ c_pi = {tau_F*g_m + CJE}
+ c_bc = {CJC*(1+((VCE-VBE)/VJC)^-MJC)} ; Divide by zero error if VBE-VCE=VJC
+ VBE  = {U_T*ln(IC/Is)}
* technology parameters (SI units)
+ Is      = 1e-16
+ VAF     = 50
+ beta_AC = 100
+ VJC     = 0.7
+ MJC     = 0.33
+ CJC     = 1p
+ CJE     = 5p
+ tau_F   = 1n
.ends

.subckt NM18_noise ext comm int ID={ID} IG={IG} W={W} L={L}
* intrinsic noise sources, gate resistance should be added externally
* CMOS18 N device: copy and modify this model for other devices
I1 0 1 I value=0 noise={4*k*T/R_N*(1+(f_ell/f)^AF_N18)} ; channel noise current
H1 ext int 1 10 {1/g_m}                        ; equivalent-input voltage noise
F1 ext comm 10 0 {s/2/pi/f_T}                  ; gate-induced noise
I2 ext comm I value=0 noise={2*q*IG}           ; gate shot noise
.param
* device equations MKV model saturated region
+ R_N     = {(1+IC)/(1/2 + 2/3*IC)/N_s_N18/g_m}
+ IC_CRIT = {1/((4*N_s_N18*U_T)*(Theta_N18+1/L/E_CRIT_N18))^2}
+ g_m     = {ID/(N_s_N18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {2/3*W*L*C_OX_N18 + CGSO_N18*W} 
+ c_dg    = {CGSO_N18*W}
+ c_gb    = {CGBO_N18*2*L+(N_s_N18-1)/N_s_N18*C_OX_N18*W*L/3}
+ c_db    = {CJB0_N18*W*LDS_N18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC_i    = {ID*L/W/I_0_N18} ; Correction for initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ f_ell   = {g_m^2*R_N*KF_N18/(4*k*T*W*L*C_OX_N18)}
.ends

.subckt PM18_noise ext comm int ID={ID} IG={IG} W={W} L={L}
* intrinsic noise sources, gate resistance should be added externally
* CMOS18 P device: copy and modify this model for other devices
* IG and ID should be negative
I1 0 1 I value=0 noise={4*k*T/R_N*(1+(f_ell/f)^AF_P18)} ; channel noise current
H1 ext int 1 10 {1/g_m}                        ; equivalent-input voltage noise
F1 ext comm 10 0 {s/2/pi/f_T}                  ; gate-induced input current noise
I2 ext comm I value=0 noise={-2*q*IG}          ; gate shot noise
.param
* device equations MKV model saturated region
+ R_N     = {(1+IC)/(1/2 + 2/3*IC)/N_s_P18/g_m}
+ IC_CRIT = {1/((4*N_s_P18*U_T)*(Theta_P18+1/L/E_CRIT_P18))^2}
+ g_m     = {-ID/(N_s_P18*U_T*sqrt(IC*(1+IC/IC_CRIT)+0.5*sqrt(IC*(1+IC/IC_CRIT))+1))}
+ c_gs    = {2/3*W*L*C_OX_P18 + CGSO_P18*W} 
+ c_dg    = {CGSO_P18*W}
+ c_gb    = {CGBO_P18*2*L+(N_s_P18-1)/N_s_P18*C_OX_P18*W*L/3}
+ c_db    = {CJB0_P18*W*LDS_P18}
+ f_T     = {g_m/2/pi/c_iss}
+ c_iss   = {c_gs+c_dg+c_gb}
+ IC_i    = {-ID*L/W/I_0_P18} ; Initial estimate of inversion coefficient
+ IC      = {IC_i*(1+IC_i/4/IC_CRIT)} ; Inversion coefficient corrected for short-channel effects
+ f_ell   = {g_m^2*R_N*KF_P18/(4*k*T*W*L*C_OX_P18)}
.ends

.subckt J_noise ext comm int ID={ID} IG={IG} W={W} L={L}
* simplified intrinsic noise sources, gate resistance should be added externally
* MOS or JFET: copy and modify this model for other devices
I1 0 1 I value=0 noise={8*k*T*g_m/3*(1+f_ell/f)}     ; channel noise current
H1 ext int 1 10 {1/g_m}                              ; equivalent-input voltage noise
F1 ext comm 10 0 {s*(Cgs_sq*L+Cdg_W)*W/g_m}          ; gate-induced input current noise
I2 ext comm I value=0 noise={2*q*IG}                 ; gate shot noise
.param
* device equations SH model saturation region
+ g_m     = {2*sqrt(beta_sq*W*ID/L)}                 ; ID = beta_sq*W/L*(VGS-VT)^2
+ f_ell   = {3*KF*ID^(AF-0.5)/16/k/T/sqrt(beta_sq*W*L)}
* technology parameters (SI units)
+ Cgs_sq  = 10p 
+ Cdg_W   = 0.5p
+ beta_sq = 50u
+ AF      = 1
+ KF      = 1f                                       ; Set to zero for f_ell=0
.ends

.subckt Q_noise ext comm int IC={IC} VCE={VCE}
* intrinsic noise sources, base resistance should be added externally
I1 0 1 I value=0 noise={2*q*IC}                          ; collector noise current
H1 ext int 1 10 {U_T/IC}                                 ; equivalent-input voltage noise
F1 ext comm 10 0 {s*(C_pi+C_bc)*U_T/IC}                  ; HF base-induced current noise, DC part ignored
I2 ext comm I value=0 noise={2*q*IC*(1+f_ell/f)/beta_DC} ; base shot noise
.param
* Parameters will be substituted if simType has been set to "numeric"
* device equations GP model
+ C_pi    = {tau_F*IC/U_T + CJE}                         ; C_pi scales with IC not with VBE
+ C_bc    = {CJC*(1+(VCE-VBE)/VJC)^-MJC}                 ; C_bc scales with VCE
+ f_ell   = {KF*(IC/beta_DC)^(AF-1)/2/q}                 ; flicker noise corner frequency                      
* technology parameters
+ beta_DC = 100  ; DC current gain
+ VJC     = 0.65 ; Built-in C-B junction voltage
+ MJC     = 0.33 ; C-B junction grading factor
+ CJC     = 1p   ; Zero voltage C-B junction capacitance
+ CJE     = 5p   ; B-E forward bias junction capacitance
+ tau_F   = 1n   ; Forward transit time
+ VBE     = 0.6  ; Typical B-E operating voltage (< VJC!)
+ KF      = 0    ; KF=3.6e-19*FL with AF=1 and f_ell in [Hz], set to zero for f_ell=0
+ AF      = 1    ; Flicker noise exponent
.ends

.subckt CMOS18PN drain gate source bulk W_N={W_N} L_N={L_N} ID_N={ID_N} W_P={W_P} L_P={L_P} ID_P={ID_P}
* EKV model of push-pull-stage (complementary-parallel-stage) without bulk resistances
* Voltage dependency of bulk capacitances not modeled
* Both transistors operating in the forward saturation region
* ID_P should be negative
M1 drain gate source bulk CMOS18PN
.model CMOS18PN M
+ gm      = {g_m} 
+ go      = {g_o} 
+ gb      = {g_b}
+ cgs     = {c_gs}
+ cdg     = {c_dg}
+ cgb     = {c_gb}
+ cdb     = {c_db}
+ csb     = {c_sb}
* Parameters will be substituted if simType has been set to "numeric"
.param
* device equations EKV model
* See Binkley: "Tradeoffs and Optimization in Analog CMOS Design"
+ IC_CRIT_N = {1/(4*(N_s_N18*U_T)*(Theta_N18+1/L_N/E_CRIT_N18))^2}
+ IC_CRIT_P = {1/(4*(N_s_P18*U_T)*(Theta_P18+1/L_P/E_CRIT_P18))^2}
+ g_m_N     = {ID_N/(N_s_N18*U_T*sqrt(IC_N*(1+IC_N/IC_CRIT_N)+0.5*sqrt(IC_N*(1+IC_N/IC_CRIT_N))+1))}
+ g_m_P     = {-ID_P/(N_s_P18*U_T*sqrt(IC_P*(1+IC_P/IC_CRIT_P)+0.5*sqrt(IC_P*(1+IC_P/IC_CRIT_P))+1))}
+ g_m       = {g_m_N + g_m_P}
+ g_b       = {g_m_N*(N_s_N18-1) + g_m_P*(N_s_P18-1)}
+ g_o       = {ID_N/VAL_N18/L_N - ID_P/VAL_P18/L_P}
+ c_gs      = {2/3*W_N*L_N*C_OX_N18 + CGSO_N18*W_N + 2/3*W_P*L_P*C_OX_P18 + CGSO_N18*W_P}  
+ c_dg      = {CGSO_N18*W_N+CGSO_P18*W_P}
+ c_gb      = {CGBO_N18*2*L_N + (N_s_N18-1)/N_s_N18*C_OX_N18*W_N*L_N/3 + CGBO_P18*2*L_P + (N_s_P18-1)/N_s_P18*C_OX_P18*W_P*L_P/3}
+ c_db      = {CJB0_N18*W_N*LDS_N18 + CJB0_P18*W_P*LDS_P18}
+ c_sb      = {CJB0_N18*W_N*LDS_N18 + CJB0_P18*W_P*LDS_P18}
+ IC_iN     = {ID_N*L/W/I_0_N18} ; Initial estimate of inversion coefficient
+ IC_N      = {IC_iN*(1+IC_iN/4/IC_CRIT_N)} ; Inversion coefficient corrected for short-channel effects
+ IC_iP     = {-ID_P*L/W/I_0_P18} ; Initial estimate of inversion coefficient
+ IC_P      = {IC_iP*(1+IC_iP/4/IC_CRIT_P)} ; Inversion coefficient corrected for short-channel effects
+ c_iss     = {c_gs+c_dg+c_gb}
+ f_T_PN    = {g_m/2/pi/c_iss}
.ends

.end
